US08859773B2
Step 1: ethyl 7-methoxy-1-(tetrahydro-2H-pyran-2-yl)-1H-indazole-5-carboxylate
To a mixture of ethyl 7-hydroxy-1-(tetrahydro-2H-pyran-2-yl)-1H-indazole-5-carboxylate (WO2009144554) (100 mg, 0.34 mmol) and potassium carbonate (95.1 mg, 0.68 mmol) in N,N-dimethylformamide (1 mL) was added methyl iodide (32 μL, 0.51 mmol). The reaction was stirred at room temperature overnight. The reaction was diluted with water and extracted with ethyl acetate (4×). The combined organic layers were washed with water and brine, dried over sodium sulfate, filtered, and concentrated to give the title compound (105 mg, 100%) as a yellow oil. +ESI (M+1-THP) 221.2; 1H NMR (400 MHz, CDCl3, δ): 8.07-8.10 (m, 2H), 7.43 (d, J=0.98 Hz, 1H), 6.24 (dd, J=10.24, 2.44 Hz, 1H), 4.38 (q, J=7.15 Hz, 2H), 4.08 (dt, J=11.56, 2.02 Hz, 1H), 4.04 (s, 3H), 3.70-3.78 (m, 1H), 2.54-2.66 (m, 1H), 2.09-2.19 (m, 1H), 2.01-2.08 (m, 1H), 1.71-1.83 (m, 2H), 1.55-1.64 (m, 1H), 1.41 (t, J=7.12 Hz, 3H).

reactant | ethyl 7-hydroxy-1-(tetrahydro-2H-pyran-2-yl)-1H-indazole-5-carboxylate | 0.34 mmol, 100 mg | OC=1C=C(C=C2C=NN(C12)C1OCCCC1)C(=O)OCC | C15H18N2O4
reactant | potassium carbonate | 0.68 mmol, 95.1 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 0.51 mmol, 32 μL | CI | CH3I
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | ethyl 7-methoxy-1-(tetrahydro-2H-pyran-2-yl)-1H-indazole-5-carboxylate | 105 mg, 100% | COC=1C=C(C=C2C=NN(C12)C1OCCCC1)C(=O)OCC | C16H20N2O4
